US05849765
4-(Benzothiophen-2-yl)-1-(2-chlorobenzyl)-1,2,3,6-tetrahydropyridine
4-(Benzothiophen-2-yl)-1,2,3,6-tetrahydropyridine hydrochloride (250 mg, 0.99 mmol) was reacted with 2-chlorobenzyl bromide (0.24 ml, 1.5 mmol) as exemplified in Example 1. The crude product was triturated with methanol to give the title compound as a pale yellow brown solid (40 mg, 12%) m.p. 105°-106° C.; (Found: C, 69.29; H, 5.17; N, 4.23. C20 H18ClNS. 0.5H2O requires C, 68.85; H, 5.49; N, 4.01%). δH (CDCl3), 2.66 (2H, m, NCH2CH2), 2.80 (2H, m, NCH2CH2), 3.27 (2H, m, NCH2CH2), 3.77 (2H, s, NCH2Ar), 6.20 (1H, m, NCH2CH), 7.13 (1H, s, ArH), 7.25 (4H, m, ArH), 7.36 (1H, d of d, J 7.7Hz, J 1.4Hz, ArH), 7.53 (1H, d of d, J 7.5Hz, J 1.6Hz, ArH), 7.66 (1H, d of d, J 6.9Hz, J 1.5Hz, ArH), 7.73 (1H, d of d, J 8.7Hz, J 1.7Hz, ArH). m/z (ES+) 340 (M+1)+.

reactant | 4-(Benzothiophen-2-yl)-1,2,3,6-tetrahydropyridine hydrochloride | 0.99 mmol, 250 mg | Cl.S1C(=CC2=C1C=CC=C2)C=2CCNCC2
reactant | 2-chlorobenzyl bromide | 1.5 mmol, 0.24 ml | ClC1=C(CBr)C=CC=C1 | C7H6BrCl
product | 4-(Benzothiophen-2-yl)-1-(2-chlorobenzyl)-1,2,3,6-tetrahydropyridine | 40 mg, 12% | S1C(=CC2=C1C=CC=C2)C=2CCN(CC2)CC2=C(C=CC=C2)Cl | C20H18ClNS
